US05929085
(c) 3-Nitro-8,9,10,11,11a,12-hexahydro-7H-azepino[1,2-b]isoquinolin-5-one
To a solution of 8,9,10,11,11a,12-hexahydro-7H-azepino[1,2-b]isoquinolin-5-one (2.50 g, 11.6 mmol) in concentrated sulfuric acid (30 ml) at 0° C. was added in a single portion potassium nitrate (1.23 g, 12.2 mmol). After the reaction mixture had stirred overnight, it was poured onto ice and basified with concentrated ammonium hydroxide. The aqueous phase was extracted twice with dichloromethane, dried (magnesium sulfate), and concentrated to leave about 15 ml of solvent. Hexanes (100 ml) was added and the solution was placed in the freezer. The precipitated product was collected and dried to give the title compound as a yellow solid (1.94 g, 64%), m.p. 117.5-9° C.

reactant | 8,9,10,11,11a,12-hexahydro-7H-azepino[1,2-b]isoquinolin-5-one | 11.6 mmol, 2.50 g | C1=C2CC3N(C(C2=CC=C1)=O)CCCCC3 | C14H17NO
reactant | potassium nitrate | 12.2 mmol, 1.23 g | [N+](=O)([O-])[O-].[K+]
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | sulfuric acid | 30 ml | S(O)(O)(=O)=O | H2O4S
product | 3-Nitro-8,9,10,11,11a,12-hexahydro-7H-azepino[1,2-b]isoquinolin-5-one | about 15 ml | [N+](=O)([O-])C1=CC=C2CC3N(C(C2=C1)=O)CCCCC3 | C14H16N2O3
